US04263311
A suspension of 145 g. (0.433 mole) of α-bromodesoxy-p-anisoin, 88.36 g. (0.865 mole) of finely powdered 2-amino-4,5-dihydrothiazole and 179.5 g. (1.3 moles) of pulverized potassium carbonate in 1.0 liter of sieve dried acetonitrile under nitrogen was stirred at 25° C. for 3 days. The solvent was evaporated in vacuo and the residue treated with methylene chloride and 5% aqueous sodium carbonate. The organic phase was removed, washed once with 10% aqueous sodium carbonate, 3 times with water, dried over potassium carbonate, filtered and evaporated in vacuo. A solution of the residue dissolved in methylene chloride was treated with charcoal, filtered and hexane added. The precipitate was filtered and recrystallized from methylene chloride to give 5,6-bis(p-anisyl)-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | α-bromodesoxy-p-anisoin | 0.433 mole | BrC(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C16H15BrO3
reactant | 2-amino-4,5-dihydrothiazole | NC=1SCCN1 | C3H6N2S
reactant | potassium carbonate | 1.3 moles | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 1.0 liter | C(C)#N | C2H3N
product | 5,6-bis(p-anisyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C1=CC=C(C=C1)OC)C1=C(N=C2SCCN21)CC2=CC=C(C=C2)OC | C21H22N2O2S
